US07226991B1
To a solution of 2-(2-acetoxyl-4-methylphenyl)acetic acid tert-butyl ester (4.9 g, 18.5 mmol) in CCl4 (50 ml) was added N-bromosuccinimide (3.29 g, 18.5 mmol, 1 equivalents) and benzoyl peroxide (100 mg), the reaction mixture was refluxed under argon for 3 hr. The reaction mixture was then cooled to room temperature. The solid precipitate was filtered off, and washed with hexanes, the combined organic was taken to dryness, and the residue obtained was purified by chromatography (Hexanes—EtOAc, 50:1 to 40:1) to give (2-acetoxy-4-bromomethylphenyl)acetic acid tert-butyl ester 2.467 g (38.8% yield) as an oil. 1H NMR (CDCl3) δ: 7.290 (1H, d, J=7.81 Hz), 7.230 (1H, dd, J=1.71, 7.81 Hz), 7.158 (1H, d, J=1.71 Hz), 4.467 (2H, s), 3.462 (2H, S), 2.320 (3H s), 1.430 (9H, s) ppm. FABMS (+Ve), m/z 345 [MH+, 81Br], 343 [MH+, 79Br], 389 [MH+—C4H8, 81Br], 387 [MH+—C4H8, 79Br]. Anal. calcd. for C15H19BrO4; C, 52.5; H, 5.6; Br, 23.3. Found: C, 52.30; H, 550; Br, 23.44.

reactant | 2-(2-acetoxyl-4-methylphenyl)acetic acid tert-butyl ester | 18.5 mmol, 4.9 g | C(C)(C)(C)OC(CC1=C(C=C(C=C1)C)OC(=O)C)=O | C15H20O4
reactant | N-bromosuccinimide | 18.5 mmol, 3.29 g, 1 equivalents | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CCl4 | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 100 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | (2-acetoxy-4-bromomethylphenyl)acetic acid tert-butyl ester | 2.467 g, 38.8% yield | C(C)(C)(C)OC(CC1=C(C=C(C=C1)CBr)OC(C)=O)=O | C15H19BrO4
